US05470851
4(R)-{3-[4-(α-2-Pyridylbenzyl)-1-piperazinyl]propylcarbamoyl}-2-(3-pyridyl) thiazolidine
The title compound was prepared in a yield of 16% in a similar manner to that described in Example 17 by reacting 2-(3-pyridyl) thiazolidine-4(R)-carboxylic acid and 4-[α-(2-pyridyl)benzyl]-1-(3-aminopropyl)piperazine (prepared as described in Preparation 41').

reactant | 2-(3-pyridyl) thiazolidine-4(R)-carboxylic acid | N1=CC(=CC=C1)C1SC[C@H](N1)C(=O)O | C9H10N2O2S
reactant | 4-[α-(2-pyridyl)benzyl]-1-(3-aminopropyl)piperazine | N1=C(C=CC=C1)C(C1=CC=CC=C1)N1CCN(CC1)CCCN | C19H26N4
product | 4(R)-{3-[4-(α-2-Pyridylbenzyl)-1-piperazinyl]propylcarbamoyl}-2-(3-pyridyl) thiazolidine | yield of 16% | N1=C(C=CC=C1)C(C1=CC=CC=C1)N1CCN(CC1)CCCNC(=O)[C@H]1NC(SC1)C=1C=NC=CC1 | C28H34N6OS
